US06777420B2
Sodium hydride (60% dispersion in mineral oil, 8.2 g, 205 mmol) was added to a mixture of 6-amino-2-methoxy-4-pyrimidone (24.0 g, 170 mmol) in DMF at 0° C. After 0.5 hours, lithium bromide (19.2 g, 221 mmol) was added to the mixture and stirred for 0.5 hours at room temperature. The temperature was slowly increased to 70° C., and a solution of 4-bromobutyl acetate (50 g, 256 mmol) in DMF was added dropwise to the reaction mixture. The mixture was stirred at 70° C. for 3 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was purified by chromatography on silica gel using CHCl3/MeOH (1-5%) as eluent to give first 6.5 g (15%) of 6-amino-2-methoxy-4-(4-acetoxybutyl)pyrimidine as a white solid followed by 23.4 g (yield 54%) of 6-amino-2-methoxy-3-(4-acetoxybutyl)-4-pyrimidone as a white solid.

reactant | Sodium hydride | 205 mmol, 8.2 g | [H-].[Na+]
reactant | 6-amino-2-methoxy-4-pyrimidone | 170 mmol, 24.0 g | NC1=CC(NC(=N1)OC)=O | C5H7N3O2
reactant | lithium bromide | 221 mmol, 19.2 g | [Br-].[Li+]
reactant | 4-bromobutyl acetate | 256 mmol, 50 g | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-amino-2-methoxy-4-(4-acetoxybutyl)pyrimidine | 6.5 g, 15% | NC1=CC(=NC(=N1)OC)CCCCOC(C)=O | C11H17N3O3
